US04698352
In 10 ml of ethanol were suspended 0.3 g of 6-(4-aminophenyl)-1-(4-fluorophenyl)-4-oxo-1,4-dihydronicotinic acid and 0.15 g of 5-nitrofurfural, and the suspension was subjected to reaction at 80° C. for 2 hours. After completion of the reaction, the reaction mixture was cooled to room temperature and the insolubles were removed by filtration. The solvent was removed by distillation under reduced pressure. Then, 10 ml of diethyl ether was added to the residue, and the insolubles were collected by filtration to obtain 0.13 g of 1-(4-fluorophenyl)-6-[4-{(5-nitrofurfurylidene)amino}-phenyl]-4-oxo-1,4-dihydronicotinic acid having a melting point of 129°-131° C.

reactant | 6-(4-aminophenyl)-1-(4-fluorophenyl)-4-oxo-1,4-dihydronicotinic acid | 0.3 g | NC1=CC=C(C=C1)C=1N(C=C(C(=O)O)C(C1)=O)C1=CC=C(C=C1)F | C18H13FN2O3
reactant | 5-nitrofurfural | 0.15 g | [N+](=O)([O-])C1=CC=C(C=O)O1 | C5H3NO4
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(4-fluorophenyl)-6-[4-{(5-nitrofurfurylidene)amino}-phenyl]-4-oxo-1,4-dihydronicotinic acid | 0.13 g | FC1=CC=C(C=C1)N1C=C(C(=O)O)C(C=C1C1=CC=C(C=C1)N=CC1=CC=C(O1)[N+](=O)[O-])=O | C23H14FN3O6
